US04471116
4-(2-Bromoethoxy)phenol (41 g) was added to 300 ml of isopropylamine and the solution was heated for 12 hours at 100° under nitrogen at 250 psi. Excess isopropylamine was removed in vacuo and 300 ml of water added to dissolve the residue. The solution was basified with solid potassium carbonate and the oil extracted with ether. The ether extract was dried over anhydrous potassium carbonate. After the solvent was removed in vacuo and the residue was crystallized from acetone-hexane to yield 21.8 g (59%) of 4-[2-(1-methylethyl)aminoethoxy]phenol, mp 78°-80°.

reactant | 4-(2-Bromoethoxy)phenol | 41 g | BrCCOC1=CC=C(C=C1)O | C8H9BrO2
reactant | isopropylamine | 300 ml | C(C)(C)N | C3H9N
product | 4-[2-(1-methylethyl)aminoethoxy]phenol | 21.8 g, 59% | CC(C)NCCOC1=CC=C(C=C1)O | C11H17NO2
